US09079889B2
Synthesis of methyl 6-(2-fluoro-5-formylphenyl)picolinate
To a solution of methyl 6-bromopicolinate (1.0 equiv.) in DME (0.03 M) in a microwave vial was added Pd(dppf)Cl2-DCM (0.05 equiv.), 2-fluoro-5-formylphenylboronic acid (1.5 equiv.) and 2M Na2CO3 (2 equiv.). The reagents were heated to 120° C. for 20 min. A mixture of the desired product and the corresponding carboxylic acid was detected by LC/MS, the reaction was diluted with ethyl acetate, washed with HCl (pH=5), the acidic phase was extracted with ethyl acetate, the combined organic layers were dried with magnesium sulfate, filtered, and concentrated in vacuo to provide a light brown solid. The solid was dissolved in MeOH and treated with 3 equiv. of TMS-diazomethane at room temperature. Upon complete conversion of the carboxylic acid to the corresponding methyl ester, the reaction was concentrated in vacuo and the crude material was purified via silica gel column chromatography (ISCO) eluting with 30% ethyl acetate in hexanes to provide methyl 6-(2-fluoro-5-formylphenyl)picolinate as a yellow solid in 58% yield. LC/MS=260.0 (M+H), Rt=0.70 min.

reactant | methyl 6-bromopicolinate | 1.0 equiv. | BrC1=CC=CC(=N1)C(=O)OC | C7H6BrNO2
reactant | 2-fluoro-5-formylphenylboronic acid | 1.5 equiv. | FC1=C(C=C(C=C1)C=O)B(O)O | C7H6BFO3
reactant | Na2CO3 | 2M, 2 equiv. | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 0.03 M | COCCOC | C4H10O2
catalyst | Pd(dppf)Cl2 DCM | 0.05 equiv. | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | methyl 6-(2-fluoro-5-formylphenyl)picolinate | FC1=C(C=C(C=C1)C=O)C1=CC=CC(=N1)C(=O)OC | C14H10FNO3
